US04219510
The 1-ethoxy-3-methyl-1,3-dihydro-2,1-benzoxaphosphole-1-oxide was added to 25 ml. of water and then heated on a steam bath for 1 hour. The reaction mixture was cooled, washed with chloroform and taken to dryness under vacuum to yield a clear oil which crystallized upon scratching. Recrystallization from acetone-ether yielded 1-hydroxy-3-methyl-1,3-dihydro-2,1-benzoxaphosphole-1-oxide as a white powder. A second crop was obtained from the filtrate to give a total yield of 2.4 g (67% yield) of 1-hydroxy-3-methyl-1,3-dihydro-2,1-benzoxaphosphole-1-oxide having a melting point of 148°-149° C. and the following analysis:

reactant | 1-ethoxy-3-methyl-1,3-dihydro-2,1-benzoxaphosphole-1-oxide | C(C)OP1(OC(C2=C1C=CC=C2)C)=O | C10H13O3P
solvent | water | O | H2O
product | 1-hydroxy-3-methyl-1,3-dihydro-2,1-benzoxaphosphole-1-oxide | OP1(OC(C2=C1C=CC=C2)C)=O | C8H9O3P
